US06136823
Synthesis of 8-chloro-6-fluoro-1-(2,4-difluoro-5-hydroxyphenyl)-7-methylamino-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid
8-Chloro-6,7-difluoro-1-(2,4-difluoro-5-hydroxyphenyl)-4-oxo-1,4-dihydroquinoline-3-carboxylic acid (200 mg) and an aqueous solution (about 40%; 550 mg) of methylamine were added to pyridine (1,200 mg), and the mixture was stirred at room temperature for 21 hours. The reaction mixture was concentrated under reduced pressure, and ethanol (1 ml) was added to the residue. Deposits were collected by filtration and washed with ethanol and diisopropyl ether in that order to obtain the title compound (173 mg) as a pale brown powder.

reactant | 8-Chloro-6,7-difluoro-1-(2,4-difluoro-5-hydroxyphenyl)-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 200 mg | ClC=1C(=C(C=C2C(C(=CN(C12)C1=C(C=C(C(=C1)O)F)F)C(=O)O)=O)F)F | C16H6ClF4NO4
reactant | methylamine | 550 mg | CN | CH5N
solvent | pyridine | 1,200 mg | N1=CC=CC=C1 | C5H5N
product | 8-chloro-6-fluoro-1-(2,4-difluoro-5-hydroxyphenyl)-7-methylamino-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid | 173 mg | ClC=1C(=C(C=C2C(C(=CN(C12)C1=C(C=C(C(=C1)O)F)F)C(=O)O)=O)F)NC | C17H10ClF3N2O4
